US06869969B2
5.1.2.113 Synthesis of 3-(4-acetyloxyphenyl)naphtho[1,2-c]isoxazol-7-yl acetate
This compound was made as a derivative of the compound prepared as described in Section 5.1.2.32. To a THF solution of 3-(4-hydroxyphenyl)naphtho[1,2-c]isoxazol-7-ol was added acetyl chloride (3.0 eq.) and pyridine (3.0 eq). The mixture was stirred at rt for 24 h, poured into cold NaHCO3, extracted with EtOAc. The organic extracts were washed with brine, dried with Na2SO4 and concentrated in vacuo to give the product as a white powder.

reactant | 3-(4-hydroxyphenyl)naphtho[1,2-c]isoxazol-7-ol | OC1=CC=C(C=C1)C1=C2C(=NO1)C1=CC=C(C=C1C=C2)O | C17H11NO3
reactant | acetyl chloride | 3.0 eq. | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 3.0 eq | N1=CC=CC=C1 | C5H5N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-(4-acetyloxyphenyl)naphtho[1,2-c]isoxazol-7-yl acetate | C(C)(=O)OC=1C=C2C=CC=3C(=NOC3C3=CC=C(C=C3)OC(C)=O)C2=CC1 | C21H15NO5
